US09382228B2
A solution of 2,2,2-trimethylacetamide (0.029 g, 0.284 mmol) in DCE (2 mL) was treated with oxalyl chloride (0.025 mL, 0.284 mmol), stirred at RT for 5 min, then heated at 80° C. for 0.5 h. The mixture was cooled to RT, added to a mixture of 5-((6′-(trifluoromethyl)-[2,3′-bipyridin]-4-yl)oxy)pyridin-2-amine (0.063 g, 0.190 mmol) and pyridine (0.123 mL, 1.517 mmol) in dioxane (4 mL) and stirred at RT for 3 h. The mixture was treated with satd. NaHCO3, extracted with EtOAc (3×) and the combined organics were dried over Na2SO4 and concentrated to dryness. The material was treated with MeCN and the solid collected via filtration to afford N-((5-((6′-(trifluoromethyl)-[2,3′-bipyridin]-4-yl)oxy)pyridin-2-yl)carbamoyl)pivalamide (57 mg, 65%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 11.24 (s, 1H); 10.47 (s, 1H); 9.41 (s, 1H); 8.67-8.66 (m, 2H), 8.31-8.30 (m, 1H), 8.11 (d, J=9.0 Hz, 1H); 8.00 (d, J=8.3 Hz, 1H); 7.84 (d, J=2.4 Hz, 1H); 7.79 (dd, J=9.0, 2.9 Hz, 1H); 7.01 (dd, J=5.7, 2.4 Hz, 1H); 1.21 (s, 9H); MS (ESI) m/z: 460.2 (M+H+).

reactant | 2,2,2-trimethylacetamide | 0.284 mmol, 0.029 g | CC(C(=O)N)(C)C | C5H11NO
reactant | oxalyl chloride | 0.284 mmol, 0.025 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-((6′-(trifluoromethyl)-[2,3′-bipyridin]-4-yl)oxy)pyridin-2-amine | 0.190 mmol, 0.063 g | FC(C1=CC=C(C=N1)C1=NC=CC(=C1)OC=1C=CC(=NC1)N)(F)F | C16H11F3N4O
reactant | pyridine | 1.517 mmol, 0.123 mL | N1=CC=CC=C1 | C5H5N
solvent | DCE | 2 mL | ClCCCl | C2H4Cl2
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | N-((5-((6′-(trifluoromethyl)-[2,3′-bipyridin]-4-yl)oxy)pyridin-2-yl)carbamoyl)pivalamide | 57 mg, 65% | FC(C1=CC=C(C=N1)C1=NC=CC(=C1)OC=1C=CC(=NC1)NC(=O)NC(C(C)(C)C)=O)(F)F | C22H20F3N5O3
